US08687838B2
Polyvinyl chloride resin of 35 mass % and carbon nanofibers of 1.4 mass % having an average grain diameter of 0.1 μm and a length of 5 μm as amorphous carbon source and PMMA as a pore opening member to form pores were mixed together to form a composition and diallyl phthalate monomer as a plasticizer was added to this composition, the composition was then dispersed using a Henschel mixer, kneaded repeatedly a sufficient number of times using a pressure kneader to obtain a kneaded composition, which was then pelletized using a pelletizer to obtain a composition for molding. The pellet of this composition for molding was transformed into a sheet-like molded product having a thickness of 400 μm through extrusion molding, further graphite (SP270 manufactured by Nippon Graphite industries, ltd.) of 5 mass % and having an average grain diameter of on the order of 4 μm was dispersed on furan resin, both sides of which were coated with a liquid containing a hardener and hardened to be transformed into a multilayered sheet. The multilayered sheet was processed in an air oven of 200° C. for five hours to be a carbon precursor. The multilayered sheet was then heated in a nitrogen gas at a temperature rising rate of 20° C./h and left for three hours at 1000° C. The multilayered sheet was naturally cooled and then kept under a vacuum at 1500° C. for three hours, naturally cooled, carbonization completed and a composite carbon vibration plate was thus obtained.

reactant | Polyvinyl chloride resin | C=CCl | C2H3Cl
reactant | PMMA | CC(=C)C(=O)OC | C5H8O2
product | diallyl phthalate | C(C=1C(C(=O)OCC=C)=CC=CC1)(=O)OCC=C | C14H14O4
